US20010049455A1
In accordance with Example 6, the reaction with dropping addition was carried out by using 7.42 g (0.080 mol) of 3-picoline and 5.54 g (0.053 mol) of a 35% hydrochloric acid. After the dropping addition was finished, the resultant mixture was stirred for 5 hours under heating at the same temperature. After the reaction was finished, the mixture was cooled to the room temperature and neutralized with an aqueous solution of sodium hydroxide. Then, the resultant organic layer was analyzed in the same manner as in Example 1. As the result, 65.2 g of 2-pentyl-2-cyclopentenone were obtained (yield: 80.8%).

reactant | 3-picoline | 0.080 mol, 7.42 g | N1=CC(=CC=C1)C | C6H7N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-pentyl-2-cyclopentenone | 65.2 g, yield: 80.8% | C(CCCC)C=1C(CCC1)=O | C10H16O
